US07618990B2
Methyl (2E)-4-{[4-(4-cyanophenyl)-1,3-thiazol-2-yl]amino}-4-methylpent-2-enoate (0.85 g, 2.6 mmol), prepared in step 1 of Example 87, was dissolved in ethyl acetate (10 mL) and 10% Pd on carbon (0.25 g, 0.20 mmol) was added. The mixture was shaken in a Parr apparatus under 40 psi of hydrogen for 16 h. The mixture was diluted with ethyl acetate, filtered through the Celite™ reagent and concentrated. Flash chromatography (10% acetone/hexane) afforded methyl 4-{[4-(4-cyanophenyl)-1,3-thiazol-2-yl]amino}-4-methylpentanoate (0.81 g, 95%) as a white solid. HRMS: calcd for C17H19N3O2S+H+, 330.12707; found (ESI, [M+H]+), 330.1292; Analytical HPLC: purity 100% at 210-370 nm, 11.2 min; 100% at 272 nm, 11.2 min; the Xterra® RP18 column, 3.5%, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | Methyl (2E)-4-{[4-(4-cyanophenyl)-1,3-thiazol-2-yl]amino}-4-methylpent-2-enoate | 2.6 mmol, 0.85 g | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)NC(/C=C/C(=O)OC)(C)C | C17H17N3O2S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 0.20 mmol, 0.25 g | [Pd] | Pd
product | methyl 4-{[4-(4-cyanophenyl)-1,3-thiazol-2-yl]amino}-4-methylpentanoate | 0.81 g, 95% | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)NC(CCC(=O)OC)(C)C | C17H19N3O2S
